US08426411B2
To a suspension of potassium 3,3-difluorocyclobutane-1-sulfonate (0.250 g, 1.189 mmol) in thionyl chloride (2.60 mL, 35.7 mmol) was added DMF (3 drops). The reaction was heated to about 60° C. for about 21 h. The solvent was removed under reduced pressure and the residue was used in the next reaction without further workup or purification to afford crude 3,3-difluorocyclobutane-1-sulfonyl chloride (0.227 g, 100%) as product. 1H NMR (400 MHz, CDCl3) δ 4.33-4.17 (m, 1H), 3.28 (dd, J=11.1, 7.6 Hz, 2H), 3.21-3.05 (m, 2H).

reactant | potassium 3,3-difluorocyclobutane-1-sulfonate | 1.189 mmol, 0.250 g | FC1(CC(C1)S(=O)(=O)[O-])F.[K+]
reactant | thionyl chloride | 35.7 mmol, 2.60 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3,3-difluorocyclobutane-1-sulfonyl chloride | 0.227 g, 100% | FC1(CC(C1)S(=O)(=O)Cl)F | C4H5ClF2O2S
